US08980911B2
Step c: 4-{[4-(acetylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}-3,5-dichloro-N-[3-(morpholin-4-yl)propyl]benzamide
This was prepared analogously from 4-[(4-acetyl-1H-pyrrolo[3,2-c]pyridin-1-yl)carbonyl]-3,5-dichlorobenzoic acid and 3-(morpholin-4-yl)propylamine.

reactant | 4-[(4-acetyl-1H-pyrrolo[3,2-c]pyridin-1-yl)carbonyl]-3,5-dichlorobenzoic acid | C(C)(=O)C1=NC=CC2=C1C=CN2C(=O)C2=C(C=C(C(=O)O)C=C2Cl)Cl | C17H10Cl2N2O4
reactant | 3-(morpholin-4-yl)propylamine | N1(CCOCC1)CCCN | C7H16N2O
product | 4-{[4-(acetylamino)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}-3,5-dichloro-N-[3-(morpholin-4-yl)propyl]benzamide | C(C)(=O)NC1=NC=CC2=C1C=CN2C(=O)C2=C(C=C(C(=O)NCCCN1CCOCC1)C=C2Cl)Cl | C24H25Cl2N5O4
